US04900472
A mixture of 5 g of 5-[4-(2-hydroxypropyloxy)phenyl]-2-(4-nonylphenyl)pyrimidine, 2.6 g of S-2-butyloxypropanic acid, 4 g of dicyclohexylcarbodiimide, 0.3 g of dimethylaminopyridine and 60 ml of dichloromethane was stirred for two hours. After the obtained crystals were filtered off, toluene was added to the filtrate. The mixture was washed with an alkali solution and then with water. The solvent was distilled away. 4 g of S-5-{4-[2-butyloxypropionyloxy)propyloxy]phenyl}-2-(4-nonylphenyl)pyrimidine was obtained by recrystallization from a mixed solution of ethanol and ethyl acetate. Its melting point was 98.0° C.

reactant | 5-[4-(2-hydroxypropyloxy)phenyl]-2-(4-nonylphenyl)pyrimidine | 5 g | OC(COC1=CC=C(C=C1)C=1C=NC(=NC1)C1=CC=C(C=C1)CCCCCCCCC)C | C28H36N2O2
reactant | dicyclohexylcarbodiimide | 4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethylaminopyridine | 0.3 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 2-(4-nonylphenyl)pyrimidine | C(CCCCCCCC)C1=CC=C(C=C1)C1=NC=CC=N1 | C19H26N2
